US08053520B2
N-butyraldehyde 2-bromoisobutylamide
To 100 ml of dry THF, 8.1 g (0.05 mol) 4-aminobutyraldehyde diethyl acetal and 8.4 ml (0.06 mol) triethylamine were added. The reaction flask was kept in ice-water bath, and 2-bromoisobutyryl bromide (7.5 ml, 0.06 mol) was added dropwise by a syringe over 30 min. The reaction was then stirred for 2 hours at room temperature. The white amine halide salt precipitate was filtered off by Buchner funnel. After evaporating half of the THF under reduced pressure, the filtered THF solution was treated with 25 ml of 20% trifluoroacetic acid aqueous solution overnight to cleave the diethyl acetal protection group. The mixture was neutralised by addition of 5% of NaHCO3 water solution to pH 8, and the product aldehyde was extracted three times by 50 ml DCM each time. After evaporation of DCM, a red-yellow liquid was obtained. Further purification was carried out by silicon column using DCM as eluent. The final product is colorless liquid, and stored at −20° C. freezer.

reactant | 4-aminobutyraldehyde diethyl acetal | 0.05 mol, 8.1 g | C(C)OC(CCCN)OCC | C8H19NO2
reactant | triethylamine | 0.06 mol, 8.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromoisobutyryl bromide | 0.06 mol, 7.5 ml | BrC(C(=O)Br)(C)C | C4H6Br2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-butyraldehyde 2-bromoisobutylamide | BrC(C[NH-])(C)C.C(CCC)=O | InChI=1S/C4H9BrN.C4H8O/c1-4(2,5)3-6;1-2-3-4-5/h6H,3H2,1-2H3;4H,2-3H2,1H3/q-1;
